US07414068B2
Step 1: Preparation of N-(4-chlorophenyl)-N-(1-methyl-1H-tetrazol-5-ylmethyl)amine
The same procedure as step 2 of example 1 was accomplished except for using p-chloroaniline (5.8 g, 45.3 mmol) and 5-chloromethyl-1-methyl-1H-tetrazol (6 g, 45.3 mmol). The crude product was purified by silica gel column chromatography (developing solvent-n-hexane:ethyl acetate=2:1), to give desired compound (3.68 g, yield: 36%).

reactant | p-chloroaniline | 45.3 mmol, 5.8 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | 5-chloromethyl-1-methyl-1H-tetrazol | 45.3 mmol, 6 g | ClCC1=NN=NN1C | C3H5ClN4
product | N-(4-chlorophenyl)-N-(1-methyl-1H-tetrazol-5-ylmethyl)amine | 3.68 g, yield: 36% | ClC1=CC=C(C=C1)NCC1=NN=NN1C | C9H10ClN5
